US09085583B2
Step 1: (±)-tert-butyl 1-(3-hydroxy-3-methylbutan-2-yl)-2-methyl-1H-indole-3-carboxylate
A 50 mL round bottom flask was charged with (±)-tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-indole-3-carboxylate (0.2441 g, 0.810 mmol), vac/purged with N2, diluted with THF (5 mL) and cooled to −78° C. Methyllithium (0.648 ml, 0.972 mmol) was then added slowly, drop-wise, and the solution was allowed to slowly warm to ambient temperature. The reaction was then quenched with 1N HCl, extracted with EtOAc. The org layer was washed with water then brine, dried over Na2SO4, filtered, concentrated, purified by column chromatography using 10% EtOAc in Hex (10 CV), 15% (10 CV) to elute (±)-tert-butyl 1-(3-hydroxy-3-methylbutan-2-yl)-2-methyl-1H-indole-3-carboxylate (157.2 mg, 61.1%). LRMS (M+H+) m/z: calcd 318.42. found 318.2.

reactant | (±)-tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-indole-3-carboxylate | 0.810 mmol, 0.2441 g | CC=1N(C2=CC=CC=C2C1C(=O)OC(C)(C)C)C(C)C(C)=O | C18H23NO3
reactant | Methyllithium | 0.972 mmol, 0.648 ml | C[Li]
product | (±)-tert-butyl 1-(3-hydroxy-3-methylbutan-2-yl)-2-methyl-1H-indole-3-carboxylate | OC(C(C)N1C(=C(C2=CC=CC=C12)C(=O)OC(C)(C)C)C)(C)C | C19H27NO3
